US08426411B2
To a solution of ethyl 4-chloro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (2.28 g, 5.42 mmol) in n-BuOH (21 mL) was added cyclohexanamine (1.24 mL, 10.8 mmol). The resulting solution was heated at about 110° C. for about 18 h. The reaction mixture was cooled to ambient temperature and diluted with water and DCM (50 mL each). The layers were separated and the organic layer was dried over anhydrous Na2SO4, filtered, and concd to dryness under reduced pressure. The residue was triturated with heptane and the precipitates were filtered to give ethyl 4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (1.74 g, 73%) as a light yellow solid: LC/MS (Table 1, Method b) Rt=3.18 min; MS m/z: 442 (M+H)+.

reactant | ethyl 4-chloro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 5.42 mmol, 2.28 g | ClC1=C2C(=NC=C1C(=O)OCC)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C17H15ClN2O4S
reactant | cyclohexanamine | 10.8 mmol, 1.24 mL | C1(CCCCC1)N | C6H13N
solvent | n-BuOH | 21 mL | CCCCO | C4H10O
solvent | water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 1.74 g, 73% | C1(CCCCC1)NC1=C2C(=NC=C1C(=O)OCC)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C23H27N3O4S
